US07759373B2
To a solution of the resulting crude product of ethyl 3-[(5-benzo[b]furoyl)amino]-4-(5-chlorothiophen-3-yl)-4-oxobutyrate (896 mg) in N,N-dimethylformamide (7 ml) was added phosphoryl chloride (0.48 ml) at room temperature, and the mixture was stirred at the same temperature overnight. To the reaction mixture was added water, the mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: hexane:acetone=7:1), and then, triturated with diethyl ether to obtain ethyl 2-(5-benzo[b]furyl)-5-(5-chloro-thiophen-3-yl)oxazol-4-ylacetate (349 mg) as colorless powder.

reactant | ethyl 3-[(5-benzo[b]furoyl)amino]-4-(5-chlorothiophen-3-yl)-4-oxobutyrate | 896 mg | O1C2=C(C=C1)C=C(C=C2)C(=O)NC(CC(=O)OCC)C(=O)C2=CSC(=C2)Cl | C19H16ClNO5S
reactant | phosphoryl chloride | 0.48 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(5-benzo[b]furyl)-5-(5-chloro-thiophen-3-yl)oxazol-4-ylacetate | 349 mg | O1C2=C(C=C1)C=C(C=C2)C=2OC(=C(N2)CC(=O)OCC)C2=CSC(=C2)Cl | C19H14ClNO4S
